US07091228B2
To a solution of trans-2-(4-bromobenzoyl)cyclohexanecarboxylic acid (5.0 g, 16.07 mmol) in DCM (80 mL) was added 2-(trimethylsilyl)ethanol (2.1 g, 17.68 mmol), N,N′-dimethylamino-pyridine (98 mg, 0.80 mmol), and EDCI (4.0 g, 20.89 mmol). The resulting reaction mixture was stirred at rt for 2 days. Water was added, and the mixture was diluted with DCM. The aqueous layer was separated and extracted with DCM. The combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Silica gel chromatography (Biotage cartridge), eluting with 10% EtOAc in hexane gave trans-(trimethylsilyl)ethyl 2-(4-bromobenzoyl)cyclohexanecarboxylate (2.44 g, 37%). 1H NMR (400 MHz, CD2Cl2) δ −0.01 (s, 9H), 0.85 (m, 2H), 1.45 (m, 3H), 1.73 (m, 2H), 1.90 (m, 2H), 2.18 (m, 1H), 2.71 (m, 1H), 3.80 (m, 1H), 4.05 (m, 2H), 7.58 (d, 2H), 7.70 (d, 2H).

reactant | trans-2-(4-bromobenzoyl)cyclohexanecarboxylic acid | 16.07 mmol, 5.0 g | BrC1=CC=C(C(=O)[C@H]2[C@@H](CCCC2)C(=O)O)C=C1 | C14H15BrO3
reactant | 2-(trimethylsilyl)ethanol | 17.68 mmol, 2.1 g | C[Si](CCO)(C)C | C5H14OSi
reactant | EDCI | 20.89 mmol, 4.0 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Water | O | H2O
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | trans-(trimethylsilyl)ethyl 2-(4-bromobenzoyl)cyclohexanecarboxylate | 2.44 g, 37% | BrC1=CC=C(C(=O)[C@H]2[C@@H](CCCC2)C(=O)OCC[Si](C)(C)C)C=C1 | C19H27BrO3Si
